US07414036B2
To a solution of tert-butylN-{[2-(dimethylamino)-7-iodo-1,3-benzoxazol-5-yl]methyl}carbamate (120 mg, 0.29 mmol) in 4 ml of CH2Cl2 was added slowly 0.5 mL of trifluoroacetic acid and it was stirred at room temperature for 30 min. The excess of TFA was removed under vacuum. The product was purified by column chromatography (CH2Cl2/MeOH 9:1) yielding 64 mg (70%) of N2,N2-dimethyl-5-(aminomethyl)-7-iodo-1,3-benzoxazol-2-amine as a white solid. 1H NMR (CD3OD) δ 7.46 (d, 1H, J=1.5 Hz, H-6); 7.30 (d, 1H, J=1.5 Hz, H-4); 4.12 (s, 2H, CH2); 3.23, 3.24 (s, 6H, CH3×2); 13C NMR (CD3OD) δ 164.5 (C-2), 152.7 (C-7a), 144.6 (C-3a), 132.9 (C-5), 131.6 (C-6), 117.3 (C-4), 72.0 (C-7), 44.2 (CH2), 38.3 (CH3).

reactant | tert-butylN-{[2-(dimethylamino)-7-iodo-1,3-benzoxazol-5-yl]methyl}carbamate | 0.29 mmol, 120 mg | C(C)(C)(C)OC(NCC=1C=C(C2=C(N=C(O2)N(C)C)C1)I)=O | C15H20IN3O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | N2,N2-dimethyl-5-(aminomethyl)-7-iodo-1,3-benzoxazol-2-amine | 64 mg, 70% | CN(C=1OC2=C(N1)C=C(C=C2I)CN)C | C10H12IN3O
